US06800651B2
N-(3-(2-Methoxyphenoxy)phenyl)-N-(2,2,2-trifluoroethylsulfonyl)pyrid-3-ylmethylamine
The resultant N-(3-(2-methoxyphenoxy)phenyl)pyrid-3-ylmethylamine was dissolved in 2:1 1,2-dichloroethane/pyridine (6 mL) under nitrogen, cooled (5° C.), and treated with 2,2,2-trifluoroethylsulfonyl chloride (300 mg, 1.64 mmol). After one hour at 5° C., the mixture was allowed to warm to room temperature and stirred for 18 h. The product mixture was treated with anhydrous potassium carbonate (500 mg), stirred 30 min, filtered, and the filtrate concentrated in vacuo. The residue was chromatographed on silica gel (eluted with 2:1 dichloromethane/ethyl acetate) to afford the title compound (226 mg, 50%) as a viscous pale amber oil. The hydrochloride salt was obtained by treatment of this material in methanol with ethereal HCl. 1H NMR: 8.49 (d,1H,J=4 Hz), 8.29 (s,1H), 7.60-7.65 (m,1H), 7.20-7.25 (m,2H), 7.10-7.20 (m,1H), 6.97 (d,1H,J=8 Hz), 6.90 (m,2H), 6.80-6.85 (m,2H), 6.76 (m,1H), 4.82 (s,2H), 3.70-3.85 (m,2H), 3.75 (s,3H). MS calcd. 452.4; MS (M+1) 453.3

reactant | N-(3-(2-methoxyphenoxy)phenyl)pyrid-3-ylmethylamine | COC1=C(OC=2C=C(C=CC2)NCC=2C=NC=CC2)C=CC=C1 | C19H18N2O2
reactant | 2,2,2-trifluoroethylsulfonyl chloride | 1.64 mmol, 300 mg | FC(CS(=O)(=O)Cl)(F)F | C2H2ClF3O2S
reactant | potassium carbonate | 500 mg | C([O-])([O-])=O.[K+].[K+]
solvent | 1,2-dichloroethane pyridine | 6 mL | ClCCCl.N1=CC=CC=C1
product | N-(3-(2-Methoxyphenoxy)phenyl)-N-(2,2,2-trifluoroethylsulfonyl)pyrid-3-ylmethylamine | 226 mg, 50% | COC1=C(OC=2C=C(C=CC2)N(S(=O)(=O)CC(F)(F)F)CC=2C=NC=CC2)C=CC=C1 | C21H19F3N2O4S
